2181-05-23 00:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: N/V, DKA
   24 Hour Events:
   - AG closed, insulin gtt d/c
ed and standing plus SSI started, patient
   tolerating PO
   - SSI given ( 18u over 2 hours) for FS 274 at MN, 201 at 2 am with
   repeat FS at 4 am in 70
s, up to 170
s with juice and crackers.
   Patient awake, mentating throughout.
   - CE x1: CK 101 CK-MB 4 Trop <0.01, CE x 2: CK 98 CK-MB not done, Trop
   t 0.02, CE x3 CK
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-5-23**] 12:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (98.9
   HR: 77 (71 - 98) bpm
   BP: 132/70(85) {124/67(83) - 168/78(94)} mmHg
   RR: 19 (14 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
                  Total In:
                                                                  3,314 mL
                  PO:
                                                                  1,000 mL
                  TF:
   IVF:
                                                                  2,314 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                      0 mL
   Urine:
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,914 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.39/32/50
   Physical Examination
   Gen: Pleasant woman in NAD, mentating well
   HEENT: NCAT, sclera anicteric, MMM, oropharynx clear, gingival
   hyperplasia and poor dentition
   CV: RRR, nl S1 S2, no murmurs
   Lungs: CTAB without w/r/r
   Abd: Soft, NT, ND, + bowel sounds
   Ext: Warm, well-perfused without edema
   Neuro: A+Ox3
   Labs / Radiology
   230
   10.7
   64
   0.8 mg/dL
   17
   4.1 mEq/L
   11 mg/dL
   116
   142
   31.4
   12.4
        [image002.jpg]
                             [**2181-5-22**]  02:00 PM
                             [**2181-5-22**]  05:33 PM
                             [**2181-5-22**]  09:36 PM
   Cr
   1.4
   0.9
   0.9
   TropT
   0.02
   Glucose
   [**Telephone/Fax (3) 9401**]
   Other labs: CK / CKMB / Troponin-T:98//0.02, Lactic Acid:1.3mmol/L,
   Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL, HgA1c PND
   Assessment and Plan
   48F with DM1, admitted with DKA.
   .
   # DKA - trigger likely dietary indiscretions and medication
   non-compliance, though does have some ECG changes in ED, otherwise CXR
   and UA  not consistent with infection.  Anion gap closed and insulin
   gtt converted to standing and SS doses, however glu at 4 am, 6 am in
   70
s after receiving 8 u for glu 274 at midnight and 10 additional
   units for glu 201 at 2am.  Given juice and crackers with repeat glu
  K stable, repleted Phos x1.  Tolerating PO
s and D5 1/2 NS
   d/c
ed yesterday, got additional 1 L LR this am.
   - continue FS q1-2 hr and adjust sliding scale as needed
   - once anion gap closed x 12 hours and patient tolerating diet, will
   check lytes [**Hospital1 **]
   - standing insulin plus SS
   - appreciate [**Last Name (un) 276**] consult
   - replete K to maintain K>4.
   - f/u final read CXR, ECG, and UCx.
   - continue cycling CE.
   .
   # leukocytosis - likely stress response.  UA unremarkable.  CXR without
   focal infiltrate.  ECG without active evidence of ischemia.
   - f/u UCx.
   - f/u final read CXR, ECG, and UCx.
   - d/c CTX for now as afebrile, and without obvious infection, no septic
   physiology.
   .
   # HTN - continue home regimen.
   .
   # smoking - pt declined nicotine patch.
   .
   ICU Care
   Nutrition: Diabetic, low salt diet
   Lines:
   20 Gauge - [**2181-5-22**] 03:30 PM
   18 Gauge - [**2181-5-22**] 03:42 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: no indication currently
   Communication:  Patient
   Code status: Full code
   Disposition: likely call out to medicine floor today

2181-05-23 10:47:00 Physician Attending Progress Note
Chief Complaint: DKA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Gap closed
   Drip off
   Eating
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2181-5-23**] 12:18 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-5-23**] 10:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.3
C (97.3
   HR: 67 (67 - 98) bpm
   BP: 141/74(90) {84/44(61) - 168/86(104)} mmHg
   RR: 16 (14 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  3,314 mL
                                                                  1,748 mL
   PO:
                                                                  1,000 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  2,314 mL
                                                                  1,388 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                    650 mL
   Urine:
                                                                    400 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,914 mL
                                                                  1,098 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///17/
   Physical Examination
    Gen: alert NAD
   HEENT: poor dentition. Gingival hyperplasia
   CV: RR
   Chest: CTA bilat
   ABd: soft NT
   Ext: no rash edema or cyanosis
   Neuro: A and O x 3
   Labs / Radiology
   10.7 g/dL
   230 K/uL
   64 mg/dL
   0.8 mg/dL
   17 mEq/L
   4.1 mEq/L
   11 mg/dL
   116 mEq/L
   142 mEq/L
   31.4 %
   12.4 K/uL
        [image002.jpg]
                             [**2181-5-22**]  02:00 PM
                             [**2181-5-22**]  05:33 PM
                             [**2181-5-22**]  09:36 PM
                             [**2181-5-23**]  02:23 AM
                             [**2181-5-23**]  05:37 AM
   WBC
   12.4
   Hct
   31.4
   Plt
   230
   Cr
   1.4
   0.9
   0.9
   0.9
   0.8
   TropT
   0.02
   Glucose
   [**Telephone/Fax (3) 9407**]46
   64
   Other labs: PT / PTT / INR:12.6/30.7/1.1, CK / CKMB /
   Troponin-T:98//0.02, Lactic Acid:1.3 mmol/L, Ca++:8.6 mg/dL, Mg++:1.9
   mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
 .H/O HYPERTENSION, BENIGN
 DIABETIC KETOACIDOSIS (DKA)
   1. DKA: insulin drip, has had 4 liters NS, switch to
 NS
 trend lytes
   q4, watch gap, watch K, start D5 when glc less than 250, watch for
   ability to take pos
   2. ECG changes: could be consistent w strain but she did have chest
   pain and is diabetic so would definitely - ASA bb locker. Rule out MI,
   check lipids,
   3. ARF: likely dry, resuscitating, trend and watch UOP
   Remaining issues as per Housestaff
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-5-22**] 03:30 PM
   18 Gauge - [**2181-5-22**] 03:42 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent:

2181-05-24 06:00:00 Physician Resident Progress Note
Chief Complaint: DKA
   24 Hour Events:
 CALLED OUT
   [**2181-5-23**]
   -[**Last Name (un) 276**] consult: updated SSI per recs
   -Repeat bicarb 16, so restarted insulin drip at 4pm.  Bicard at 4 am
   was 21.
   -FSBG >450 at 8pm, pt made NPO, increased insulin ggt and will restart
   lantus in am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 1 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2181-5-23**] 11:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-5-24**] 05:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.2
C (97.2
   HR: 60 (60 - 85) bpm
   BP: 133/82(95) {120/65(81) - 167/93(107)} mmHg
   RR: 16 (10 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  2,508 mL
                                                                     65 mL
   PO:
                                                                    960 mL
             TF:
   IVF:
                                                                  1,548 mL
                                                                     65 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                      0 mL
   Urine:
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,308 mL
                                                                     65 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   Gen:
   HEENT:
   CV:
   Lungs:
   Abd:
   Ext:
   Labs / Radiology
   186 K/uL
   10.2 g/dL
   111 mg/dL
   0.6 mg/dL
   21 mEq/L
   3.5 mEq/L
   11 mg/dL
   112 mEq/L
   142 mEq/L
   29.9 %
   7.3 K/uL
        [image002.jpg]
                             [**2181-5-22**]  02:00 PM
                             [**2181-5-22**]  05:33 PM
                             [**2181-5-22**]  09:36 PM
                             [**2181-5-23**]  02:23 AM
                             [**2181-5-23**]  05:37 AM
                             [**2181-5-23**]  03:16 PM
                             [**2181-5-23**]  06:26 PM
                             [**2181-5-24**]  03:36 AM
   WBC
   12.4
   7.3
   Hct
   31.4
   29.9
   Plt
   230
   186
   Cr
   1.4
   0.9
   0.9
   0.9
   0.8
   0.8
   0.8
   0.6
   TropT
   0.02
   Glucose
   [**Telephone/Fax (3) 9407**]46
   64
   [**Telephone/Fax (3) 9412**]
   Other labs: PT / PTT / INR:12.6/30.7/1.1, CK / CKMB /
   Troponin-T:98//0.02, Lactic Acid:1.3 mmol/L, Ca++:8.1 mg/dL, Mg++:1.5
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   48F with DM1, admitted with DKA.
   .
   # DKA - trigger likely dietary indiscretions and medication
   non-compliance, though does have some ECG changes in ED, otherwise CXR
   and UA not consistent with infection.  Overnight developed high glu
   (450), bicarb 16, so insulin gtt restarted.  HgBA1c returned at 12.4.
   Social work consulted for medication access issues.
   - restart diet this am, continue FS q1-2hr, restart insulin fixed dose
   and sliding scale [**First Name8 (NamePattern2) **] [**Last Name (un) 276**] recs
   - appreciate [**Last Name (un) 276**] seeing pt again for continuing high FS
   - once anion gap closed x 12 hours and patient tolerating diet, will
   check lytes [**Hospital1 **]
   - replete K to maintain K>4, replete Phos if <1.0.
   .
   # leukocytosis - likely stress response, now resolving, pt has been
   afebrile.  UA unremarkable, urine and blood cultures without growth.
   CXR without focal infiltrate.
   - f/u cx
   - trend WBC, temp
   .
   # HTN - continue home regimen.
   .
   ICU Care
   Nutrition: Restart diabetic diet this am
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-5-22**] 03:30 PM
   18 Gauge - [**2181-5-22**] 03:42 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: call out

2181-05-24 11:41:00 Physician Attending Progress Note
Chief Complaint: DKA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   back on drip last PM for dropping bicarb
   very brittle blood sugars
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2181-5-23**] 11:55 PM
   Other medications:
   ASA lisinopril
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-5-24**] 11:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.2
C (97.2
   HR: 70 (58 - 77) bpm
   BP: 160/93(109) {120/65(81) - 160/95(109)} mmHg
   RR: 14 (10 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  2,508 mL
                                                                    125 mL
   PO:
                                                                    960 mL
             TF:
   IVF:
                                                                  1,548 mL
                                                                    125 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                      0 mL
   Urine:
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,308 mL
                                                                    125 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   Alert NAD, sitting up on side of bed
   RR
   CTA
   Abd soft NT
   Ext without edema
   Labs / Radiology
   10.2 g/dL
   186 K/uL
   111 mg/dL
   0.6 mg/dL
   21 mEq/L
   3.5 mEq/L
   11 mg/dL
   112 mEq/L
   142 mEq/L
   29.9 %
   7.3 K/uL
        [image002.jpg]
                             [**2181-5-22**]  02:00 PM
                             [**2181-5-22**]  05:33 PM
                             [**2181-5-22**]  09:36 PM
                             [**2181-5-23**]  02:23 AM
                             [**2181-5-23**]  05:37 AM
                             [**2181-5-23**]  03:16 PM
                             [**2181-5-23**]  06:26 PM
                             [**2181-5-24**]  03:36 AM
   WBC
   12.4
   7.3
   Hct
   31.4
   29.9
   Plt
   230
   186
   Cr
   1.4
   0.9
   0.9
   0.9
   0.8
   0.8
   0.8
   0.6
   TropT
   0.02
   Glucose
   [**Telephone/Fax (3) 9407**]46
   64
   [**Telephone/Fax (3) 9412**]
   Other labs: PT / PTT / INR:12.6/30.7/1.1, CK / CKMB /
   Troponin-T:98//0.02, Lactic Acid:1.3 mmol/L, Ca++:8.1 mg/dL, Mg++:1.5
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 .H/O HYPERTENSION, BENIGN
 DIABETIC KETOACIDOSIS (DKA)
   1. DKA: gap closed, tolerating pos again, drip off x 3 hours, need
   [**Last Name (un) 276**] to see- She would like to go home but may need a day on the
   floor to optimize her management
   2. ECG changes: ruling out could be consistent w ASA bblocker
   3. ARF: resolved with IVF
   Remaining issues as per Housestaff
   ICU Care
   Nutrition: [**Doctor First Name 470**] diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-5-22**] 03:30 PM
   18 Gauge - [**2181-5-22**] 03:42 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   Communication:  with pt
   [**Name (NI) 66**] status: Full code
   Disposition :Transfer to floor
   Total time spent: